US04943629
1-Deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-fructofuranose
In accordance with M. Obayashi et al., Tetrahedron Letters, 2323-2326 (1982), to a solution of lithium diisopropylamide (prepared from 17.2 ml of 1.6M n-butyllithium in hexane and 2.78 g of diisopropylamine in 50 ml of tetrahydrofuran) at -78° C., was added a solution of 4.70 g of diethyl difluoromethylphosphonate in 10 ml of tetrahydrofuran during 10 minutes, thereby forming (diethylphosphinyl)difluoromethyllithium. After 15 minutes, a solution of 2,3,5-tris-O-(phenylmethyl)-D-arabinonic acid, gamma-lactone [Y. Rabinsohn & H. G. Fletcher, J. Org. Chem., 32, 3452-3457 minutes. The solution was stirred at -78° C. for 1 hour, warmed to -15° C. during 15 minutes, recooled to -78° C. and treated with 3 ml of glacial acetic acid. The mixture was partitioned with ether and water. The ether layer was washed with water, sodium bicarbonate solution and brine, dried and concentrated. The residue was subjected to column chromatography on silica gel (heptane-ethyl acetate) giving the desired compound as an oil; CMR δ 100.7 (major anomer) and 104.0 (minor anomer); (multiplets, anomeric carbon atom).

reactant | lithium diisopropylamide | 1.6M, 17.2 ml, 2.78 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | diethyl difluoromethylphosphonate | 4.70 g | FC(F)P(OCC)(OCC)=O | C5H11F2O3P
reactant | (diethylphosphinyl)difluoromethyllithium | C(C)P(=O)(CC)C(F)(F)[Li]
reactant | 2,3,5-tris-O-(phenylmethyl)-D-arabinonic acid | C1(=CC=CC=C1)CO[C@H](C(=O)O)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C26H28O6
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 1-Deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-fructofuranose | C(C)OP(=O)(C(C1(O)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)(F)F)OCC | C31H37F2O8P
